US06995162B2
Trifluoromethylsulfonic acid 1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl ester
In a three-necked round bottom flask equipped with a thermometer and an additional funnel was placed anhydrous THF (200 mL) and 2M LDA (82.8 mL). The solution was cooled to −78° C. and a solution of 1-methyl-piperidin-4-one (20 mL) in anhydrous THF (70 mL) was added drop-wise. The reaction was warmed to −10° C. over 30 min and cooled down again to −78° C. Tf2NPh (54.32 g) in 200 mL of anhydrous THF was added through the additional funnel over 30 min and anhydrous THF (30 mL) was added to rinse the funnel. The reaction was warmed to RT and the reaction solution was concentrated in vacuo. The residue was dissolved in Et2O purified on neutral Al2O3 column chromatography (Et2O as elutant). The product was obtained as orange oil. (20 g)

reactant | LDA | 2M, 82.8 mL | [Li+].CC(C)[N-]C(C)C
reactant | 1-methyl-piperidin-4-one | 20 mL | CN1CCC(CC1)=O | C6H11NO
reactant | Tf2NPh | 54.32 g | N(S(=O)(=O)C(F)(F)F)(S(=O)(=O)C(F)(F)F)C1=CC=CC=C1 | C8H5F6NO4S2
solvent | THF | 70 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | Trifluoromethylsulfonic acid 1-methyl-1,2,3,6-tetrahydro-pyridin-4-yl ester | CN1CCC(=CC1)OS(=O)(=O)C(F)(F)F | C7H10F3NO3S
